US08048887B2
To a small sealed tube was added methyl 5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methyl-2-(trifluoromethylsulfonyloxy)benzoate (67.3 mg, 0.1 mmol), dioxane (3 mL), water (0.600 mL), 2-chlorophenylboronic acid (18.76 mg, 0.120 mmol), cesium carbonate (32.6 mg, 0.100 mmol) and tetrakis(triphenylphosphine)palladium(0) (2.311 mg, 2.000 μmol). The tube was sealed and heated overnight at 80° C. The reaction was cooled to room temperature, filtered through a plug of CELITE® and concentrated to near dryness under a stream of nitrogen. The crude reaction mixture was taken up in 6 mL of acetonitrile and purified using a Shimadzu preparative HPLC employing acetonitrile/water/trifluoroacetic acid where solvent A was 10% acetonitrile/90% water/0.1% trifluoroacetic acid and solvent B was 10% water/90% acetonitrile/0.1% trifluoroacetic acid with a Waters Sunfire 3.5 μm C18 19×150 mm column at a gradient of 30-100% B and a flow rate of 25 mL/min. over 20 minutes with a 10 minute hold. The solvent was removed giving 48 mgs (89% yield) of methyl 2′-chloro-4-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-5-methylbiphenyl-2-carboxylate as a white solid. The LC/MS data was obtained on a Shimadzu analytical LC/MICROMASS® Platform LC (ESI+) at 220 nm using the following set of conditions: PHENOMENEX® Luna 3 μm C18, 2×50 mm column, with a gradient of 0-100% B (B=90% HPLC grade acetonitrile/0.1% trifluoroacetic acid/10% HPLC grade water), (A=90% HPLC grade water/0.1% trifluoroacetic acid/10% HPLC grade acetonitrile), in 4 minutes with a 1 minute hold at a rate of 0.8 mL/minute. 1H NMR (500 MHz, THF-d8) δ ppm 2.35 (s, 3H), 2.91 (d, J=4.58 Hz, 3H), 3.57 (s, 3H), 7.21-7.26 (m, 3H), 7.27-7.30 (m, 1H), 7.30-7.34 (m, 2H), 7.38 (dd, J=8.39, 1.68 Hz, 1H), 7.41-7.44 (m, 1H), 7.50 (d, J=4.27 Hz, 1H), 7.63 (d, J=8.24 Hz, 1H), 7.75 (d, J=1.53 Hz, 1H), 7.92 (s, 1H), 8.13-8.19 (m, 2H). LCMS m/z 528.4 (M+H), Rt=4.036 min., 98.3% purity.

reactant | methyl 5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methyl-2-(trifluoromethylsulfonyloxy)benzoate | 0.1 mmol, 67.3 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C(=CC(=C(C(=O)OC)C2)OS(=O)(=O)C(F)(F)F)C | C26H19F4NO7S
reactant | dioxane | 3 mL | O1CCOCC1 | C4H8O2
reactant | 2-chlorophenylboronic acid | 0.120 mmol, 18.76 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | cesium carbonate | 0.100 mmol, 32.6 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2.000 μmol, 2.311 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.600 mL | O | H2O
product | methyl 2′-chloro-4-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-5-methylbiphenyl-2-carboxylate | 48 mgs, 89% yield | ClC1=C(C=CC=C1)C=1C(=CC(=C(C1)C)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)C(=O)OC | C31H23ClFNO4
